US08202863B2
2-Phenyl-pyrimidine-5-carboxylic acid benzylamide
A mixture of 2-phenyl-pyrimidine-5-carboxylic acid, (80 mg), 1-hydroxybenzotriazole (92 mg) and polymer supported-carbodiimide (640 mg, 1.25 mmol/g) in 8 mL of DCM is shaken at room temperature for 30 min and benzylamine (43 mg) is added. After shaking at room temperature for 1.5 days, PS-trisamine (295 mg, 4.08 mmol/g) is added. The mixture is continually shaken at room temperature for 16 hours. The solid is filtered and washed with DCM. The filtrate is concentrated to yield of 2-phenyl-pyrimidine-5-carboxylic acid benzylamide (98 mg, 85%) as a solid. MS: 290 (M+H); 1H NMR (CDCl3): 9.17 (s, 2H), 8.50 (d, 2H), 7.52-7.55 (m, 3H), 7.36-7.40 (m, 5H), 6.54 (broad, H), 4.69-4.71 (d, 2H); IC50=10 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 80 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | 1-hydroxybenzotriazole | 92 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbodiimide | 640 mg | N=C=N | CH2N2
reactant | benzylamine | 43 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | trisamine | 295 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-pyrimidine-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C18H15N3O
